US04846875
A solution of 5.25 g (0.033 mole) of 2-chloro-4-fluorobenzaldehyde in 100 ml of diethyl ether was cooled to -10° C., and 11.2 ml (0.033 mole) of a 2.95 M solution of methylmagnesium bromide in diethyl ether was added dropwise with stirring. The reaction mixture was warmed to 0° C. and was stirred for several hours. After warming to room temperature, the reaction mixture was poured into an ice/water mixture. The resulting mixture was extracted with methylene chloride. The solvent was evaporated from the extract under reduced pressure, and the residue was passed through a column of silica gel, eluting first with heptane and then with ethyl acetate/heptane (1/9). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure, leaving 1.46 g of 1-(2-chloro-4-fluorophenyl)ethanol as an amber oil. The nmr and ir spectra were consistent with the proposed structure. This reaction was repeated on a larger scale to provide sufficient 1-(2-chloro-4-fluorophenyl)ethanol for Step D.

reactant | 2-chloro-4-fluorobenzaldehyde | 0.033 mole, 5.25 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | methylmagnesium bromide | C[Mg]Br
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-(2-chloro-4-fluorophenyl)ethanol | 1.46 g | ClC1=C(C=CC(=C1)F)C(C)O | C8H8ClFO
